US04728644
A mixture of 3 g of 4,5-diamino-6-(4-methyl-1-piperazinyl) pyrimidine, 1.8 g of isonicotinic acid and 45 g of polyphosphoric acid is stirred at 160°-170° C. for 4 hours under nitrogen atmosphere. To the resultant mixture is added 200 ml of water and the solution is neutralized with an ammonia solution. The crystals precipitated are filtered and washed with water, and then recrystallized from methanol to give 1.5 g of 6-(4- methyl-1-piperazinyl)-8-(4-pyridyl)purine, melting at 333°-335° C.

reactant | 4,5-diamino-6-(4-methyl-1-piperazinyl) pyrimidine | 3 g | NC1=NC=NC(=C1N)N1CCN(CC1)C | C9H16N6
reactant | isonicotinic acid | 1.8 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | ammonia | N | H3N
solvent | water | 200 ml | O | H2O
product | 6-(4- methyl-1-piperazinyl)-8-(4-pyridyl)purine | 1.5 g | CN1CCN(CC1)C1=C2NC(=NC2=NC=N1)C1=CC=NC=C1 | C15H17N7
